US08076486B2
3-(2-Fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid
NaOH (3.2 mL, 2M solution in H2O, 6.4 mmol) was added to a solution of 3-(2-fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid methyl ester (300 mg, 0.64 mmol) in MeOH (3 mL) and stirred overnight at 60° C. The MeOH was removed and the aqueous solution was acidified with concentrated HCl. The resulting precipitate was filtered, washed with H2O, and dried under vacuum to afford the desired product (215 mg, 74%). LC-MS (M+H=453, obsd.=453).

reactant | NaOH | 6.4 mmol, 2M, 3.2 mL | [OH-].[Na+]
reactant | 3-(2-fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid methyl ester | 0.64 mmol, 300 mg | COC(C1=C(C=NC=C1NC1=C(C=C(C=C1)I)F)C1=C(C=CC=C1)F)=O | C19H13F2IN2O2
solvent | MeOH | 3 mL | CO | CH4O
product | 3-(2-Fluoro-phenyl)-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid | 215 mg, 74% | FC1=C(C=CC=C1)C1=C(C(=O)O)C(=CN=C1)NC1=C(C=C(C=C1)I)F | C18H11F2IN2O2
